Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[O:4][C:5]/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][H:3].[O:4]=[C:5]/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],2.29303352846
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-5.14301956809
[C:5]([H:6])(=[C:7]=[C:8]([H:9])[H:10])[O:11][H:12].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([C:7]=[C:8]([H:9])[H:10])[O:11][H:12],1.2291504651799998
[H:1][C:2]1=[C:3]([H:4])[C:5]1([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2](=[C:3][H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],-0.58906529298
[H:1][C:2]#[C:3][O:4][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3].[O:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],1.62555578847
[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:3].[O:1]=[C:2]=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],1.5549518798299995
[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[O:7])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.49460196747
[C:3]#[C:4][H:5].[H:1][C:2][C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-7.02033880101
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:12]([H:13])[H:14],1.64163633889
[H:1][C:2]([H:3])=[C:4]([C:5](=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9]>>[H:1][C:2]([H:3])[C:4](=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.45482273549
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16].[H:7],4.79811383933
[H:7].[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-3.79669840336
[H:1][C:2][O:3][C:4]#[C:5].[O:6]=[C:7]([H:8])[H:9]>>[H:1][C:2][O:3][C:4]#[C:5][O:6][C:7]([H:8])[H:9],-1.6932481410100002
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][H:3].[O:4][C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13],5.18807204319
[H:1][C:2]#[C:3][C:4]1[O:5][C@:6]1([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],1.70326008154
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[C:5]([H:6])[H:7].[H:1][O:2][C:3]([H:4])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],5.00763997
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:5]([H:6])[H:7].[H:1][O:2][C:3](=[C:4])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],7.77199101889
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2],8.243284427999999
[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[O:10][H:11].[O:1]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[O:10][H:11],-2.94882055041
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])[H:8]>>[C:1]#[C:2][C:3]([H:4])=[O:5].[C:6]([H:7])[H:8],4.29960818367
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11]>>[C:1]=[C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]1[H:11],-4.09314499565
[C:1]#[C:2].[O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9],-3.0661069716400005
[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11][H:12]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.15979066942
[H:1][C:2].[O:3]=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],-2.23315344526
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[H:4],1.26764252553
[C:1]#[C:2][O:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4][O:5][H:6].[C:7]([H:8])[H:9],6.61303419544
[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7].[O:8]=[C:9][H:10]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9][H:10],-1.3324591469
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[H:8]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.19717166078
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10],3.8398595484699993
